US06887874B2
Pyrrolidine (50 g, 700 mmol), 3-chloropropanol (58.5 ml, 700 mmol) and potassium carbonate (145 g, 1.05 mol) were refluxed in acetonitrile (1 l) for 20 hours. Upon cooling to ambient temperature the precipitate was filtered off and rinsed with acetonitrile. The solvent was evaporated off and the residual oil purified by distillation under vacuum to give 3-(pyrrolidin-1-yl)propan-1-ol (62.1 g, 69%).

reactant | Pyrrolidine | 700 mmol, 50 g | N1CCCC1 | C4H9N
reactant | 3-chloropropanol | 700 mmol, 58.5 ml | ClCCCO | C3H7ClO
reactant | potassium carbonate | 1.05 mol, 145 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 1 l | C(C)#N | C2H3N
product | 3-(pyrrolidin-1-yl)propan-1-ol | 62.1 g, 69% | N1(CCCC1)CCCO | C7H15NO
